### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Gamma/Digamma): reflection formula for digamma

### PR DESCRIPTION
**Pull request by teorth**
Establishes the Euler reflection formula for the digamma function, by taking the log derivative of the corresponding reflection formula for the Gamma function.

---

Inspired by https://github.com/leanprover-community/mathlib4/pull/41120#discussion_r3695475523

An initial proof of this theorem was generated by an AI, but heavily rewritten by the author.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 1]
```diff
@@ -58,6 +60,20 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+theorem digamma_one_sub {s : ℂ} (hs : ∀ n : ℤ, s ≠ n) :
+    digamma (1 - s) = digamma s + π * cot (π * s) := by
+  have : (π : ℂ) ≠ 0 := ofReal_ne_zero.mpr pi_ne_zero
+  have (m : ℕ) : s ≠ -m := by simpa using hs (-m)
+  have (m : ℕ) : 1 - s ≠ -m := fun _ ↦ hs (1 + m) (by push_cast; grind)
+  have := congrArg (logDeriv · s) (funext Gamma_mul_Gamma_one_sub)
+  rw [logDeriv_mul, logDeriv_div, (by rfl : (Gamma <| 1 - ·) = Gamma ∘ (1 - ·)),
+    (by rfl : (sin <| π * ·) = sin ∘ (π * ·)), logDeriv_comp, logDeriv_comp] at this
+    <;> try first | fun_prop | grind [sin_eq_zero_iff, Gamma_ne_zero, differentiableAt_Gamma]
+  simp [digamma_def] at this ⊢; grind
```
Comment (felixpernegger) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]:
```suggestion
  have (m : ℕ) : s ≠ -m := by simpa using hs (-m)
  have (m : ℕ) : 1 - s ≠ -m := fun _ ↦ hs (1 + m) (by push_cast; grind)
  have := congrArg (logDeriv · s) (funext Gamma_mul_Gamma_one_sub)
  rw [logDeriv_mul, logDeriv_div, (by rfl : (Gamma <| 1 - ·) = Gamma ∘ (1 - ·)),
    ← Function.comp_def sin, logDeriv_comp, logDeriv_comp] at this
    <;> try first | fun_prop | grind [sin_eq_zero_iff, ofReal_ne_zero, pi_ne_zero, Gamma_ne_zero]
  simp [digamma_def] at this ⊢
  grind
```
inline of `have` + line break + avoid the `(rfl : ...)` + unused `grind` argument

**Review by felixpernegger — APPROVED** [review]
I tried quite a bit to simplify the proof, as the <;> block is annoying. However this led to the proof blowing up in size (i.e. mre than doubling in size). Thus the proof (except the minor suggestions i gave) is likely good as is.

**Comment by teorth** [comment]
> I tried quite a bit to simplify the proof, as the <;> block is annoying. However this led to the proof blowing up in size (i.e. mre than doubling in size). Thus the proof (except the minor suggestions i gave) is likely good as is.

Amusingly, you may have more-or-less reverse engineered the original (AI-generated) proof!  Here was what the AI gave me before I did a large round of golfing:
```
open scoped Real in
/-- Euler's reflection formula for the digamma function: 
`ψ (1 - s) = ψ s + π * cot (π * s)` for `s` not an integer. -/
theorem digamma_one_sub {s : ℂ} (hs : ∀ n : ℤ, s ≠ n) :
    digamma (1 - s) = digamma s + ↑π * cot (↑π * s) := by
  have hπ : (π : ℂ) ≠ 0 := ofReal_ne_zero.mpr Real.pi_ne_zero
  have hsnat : ∀ m : ℕ, s ≠ -↑m := fun m ↦ by simpa using hs (-m)
  have h1snat : ∀ m : ℕ, (1 : ℂ) - s ≠ -↑m :=
    fun m h ↦ hs (1 + m) (by push_cast; linear_combination -h)
  have hsin : sin (↑π * s) ≠ 0 := fun h ↦ by
    obtain ⟨k, hk⟩ := sin_eq_zero_iff.mp h
    exact hs k (mul_left_cancel₀ hπ (hk.trans (mul_comm _ _)))
  have hGs : Gamma s ≠ 0 := Gamma_ne_zero hsnat
  have hG1s : Gamma (1 - s) ≠ 0 := Gamma_ne_zero h1snat
  have hdG1s : DifferentiableAt ℂ (fun z ↦ Gamma (1 - z)) s :=
    (differentiableAt_Gamma (1 - s) h1snat).comp s (by fun_prop)
  have hL : logDeriv (fun z ↦ Gamma (1 - z)) s = -digamma (1 - s) := by
    have hd : deriv (fun z : ℂ ↦ 1 - z) s = -1 := ((hasDerivAt_id s).const_sub 1).deriv
    rw [show (fun z : ℂ ↦ Gamma (1 - z)) = Gamma ∘ fun z ↦ 1 - z from rfl,
      logDeriv_comp (differentiableAt_Gamma _ h1snat) (by fun_prop), hd, ← digamma_def, mul_neg_one]
  have hR : logDeriv (fun z ↦ sin (↑π * z)) s = cot (↑π * s) * ↑π := by
    have hg : HasDerivAt (fun z : ℂ ↦ ↑π * z) ↑π s := by
      simpa using (hasDerivAt_id s).const_mul (↑π : ℂ)
    rw [show (fun z : ℂ ↦ sin (↑π * z)) = sin ∘ fun z ↦ ↑π * z from rfl,
      logDeriv_comp (by fun_prop) hg.differentiableAt, logDeriv_sin, hg.deriv]
  have key := congrArg (logDeriv · s) (funext fun z ↦ Gamma_mul_Gamma_one_sub z)
  rw [logDeriv_mul s hGs hG1s (differentiableAt_Gamma s hsnat) hdG1s, hL,
    logDeriv_div s hπ hsin (by fun_prop) (by fun_prop), logDeriv_const, hR, ← digamma_def] at key
  simp only [Pi.zero_apply, zero_sub] at key
  linear_combination -key
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 2]
```diff
@@ -57,6 +59,21 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+`ψ (1 - s) = ψ s + π * cot (π * s)` for `s` not an integer. -/
+theorem digamma_one_sub {s : ℂ} (hs : ∀ n : ℤ, s ≠ n) :
+    digamma (1 - s) = digamma s + π * cot (π * s) := by
+  have (m : ℕ) : s ≠ -m := by simpa using hs (-m)
+  have (m : ℕ) : 1 - s ≠ -m := fun _ ↦ hs (1 + m) (by push_cast; grind)
+  have := congrArg (logDeriv · s) (funext Gamma_mul_Gamma_one_sub)
+  rw [(by rfl : (fun _ ↦ _ * _) = _ * _), (by rfl : (fun _ ↦ _ / _) = _ / _),
+    logDeriv_mul, logDeriv_div, ← Function.comp_def Gamma, ← Function.comp_def sin,
+    logDeriv_comp, logDeriv_comp] at this
+    <;> try first | fun_prop | grind [sin_eq_zero_iff, ofReal_ne_zero, pi_ne_zero, Gamma_ne_zero]
```
Comment (CoolRmal) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]:
```suggestion
  rw [logDeriv_fun_mul, logDeriv_fun_div, ← Function.comp_def Gamma, ← Function.comp_def sin,
    logDeriv_comp, logDeriv_comp] at this <;>
    try first | fun_prop | grind [sin_eq_zero_iff, ofReal_ne_zero, pi_ne_zero]
```
or if you want to tag [logDeriv_comp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/LogDeriv.html#logDeriv_comp) with `to_fun`:
```suggestion
  rw [logDeriv_fun_mul, logDeriv_fun_div, logDeriv_fun_comp (g := fun x ↦ 1 - x),
    logDeriv_fun_comp (g := fun x : ℂ ↦ π * x)] at this <;>
    try first | fun_prop | grind [sin_eq_zero_iff, ofReal_ne_zero, pi_ne_zero]
```
Although the second one is not easier.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 3]
```diff
@@ -57,6 +59,21 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
   rw [digamma_def, logDeriv_apply, logDeriv_apply, deriv_Gamma_add_one s hs0, Gamma_add_one s hs0,
     add_div, div_mul_cancel_right₀ (Gamma_ne_zero hs), mul_div_mul_left _ _ hs0, add_comm]
 
+open Real in
+/-- Euler's reflection formula for the digamma function:
+`ψ (1 - s) = ψ s + π * cot (π * s)` for `s` not an integer. -/
+theorem digamma_one_sub {s : ℂ} (hs : ∀ n : ℤ, s ≠ n) :
+    digamma (1 - s) = digamma s + π * cot (π * s) := by
+  have (m : ℕ) : s ≠ -m := by simpa using hs (-m)
```
Comment (CoolRmal) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean:69]:
```suggestion
  -- The idea is to apply `logDeriv` to both sides of `Gamma_mul_Gamma_one_sub`. This produces
  -- side conditions, which the two `have`s below allow the `<;> try ...` line to discharge.
  have (m : ℕ) : s ≠ -m := by simpa using hs (-m)
```
I would like to add a short comment here because I found this proof a bit hard to read as it starts with two seemingly unrelated lemmas. Happy to leave the exact wording to you.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 4]
```diff
@@ -57,6 +59,21 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
   rw [digamma_def, logDeriv_apply, logDeriv_apply, deriv_Gamma_add_one s hs0, Gamma_add_one s hs0,
     add_div, div_mul_cancel_right₀ (Gamma_ne_zero hs), mul_div_mul_left _ _ hs0, add_comm]
 
+open Real in
```
Comment (CoolRmal) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]:
```suggestion
open scoped Real in
```
and then replace `pi_ne_zero` with `Real.pi_ne_zero`.
I prefer this because we have both `Complex.cot` and `Real.cot` and it can be confusing.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 5]
```diff
@@ -57,6 +59,22 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+open scoped Real in
+/-- Euler's reflection formula for the digamma function:
+`ψ (1 - s) = ψ s + π * cot (π * s)` for `s` not an integer. -/
+theorem digamma_one_sub {s : ℂ} (hs : ∀ n : ℤ, s ≠ n) :
+    digamma (1 - s) = digamma s + π * cot (π * s) := by
+  -- The idea is to apply `logDeriv` to both sides of `Gamma_mul_Gamma_one_sub`. This produces
+  -- side conditions, which the two `have`s below allow the `<;> try ...` line to discharge.
+  have (m : ℕ) : s ≠ -m := by simpa using hs (-m)
+  have (m : ℕ) : 1 - s ≠ -m := fun _ ↦ hs (1 + m) (by push_cast; grind)
+  have := congrArg (logDeriv · s) (funext Gamma_mul_Gamma_one_sub)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: Do you know about the `congr()` term elaborator? I much prefer it to `congrArg` and friends:

```suggestion
  have := congr(logDeriv $(funext Gamma_mul_Gamma_one_sub) s)
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 6]
```diff
@@ -57,6 +59,22 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
   rw [digamma_def, logDeriv_apply, logDeriv_apply, deriv_Gamma_add_one s hs0, Gamma_add_one s hs0,
     add_div, div_mul_cancel_right₀ (Gamma_ne_zero hs), mul_div_mul_left _ _ hs0, add_comm]
 
+open scoped Real in
+/-- Euler's reflection formula for the digamma function:
+`ψ (1 - s) = ψ s + π * cot (π * s)` for `s` not an integer. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: We like to put names of things like this in bold.
```suggestion
/-- **Euler's reflection formula for the digamma function**:
`ψ (1 - s) = ψ s + π * cot (π * s)` for `s` not an integer. -/
```

**Review by j-loreaux — COMMENTED** [review]
Nice, thanks!

bors d+

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean (hunk 5 above)
Comment (CoolRmal) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: Is there a reason behind this preference? I didn't point this out when I was reviewing this PR as I am not sure why the `congr()` term elaborator is better.

Comment (j-loreaux) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: It's not a preference I demand, but "one ~~ring~~ tool to rule them all" is a nice mantra. The term elaborator also has special support for constructing terms that require some `HEq`s to build properly, and the lemmas do not.
